US05015644
1-Cyano-1-(5-tetrazolyl)cyclopentane
A mixture of 1,1-biscyanocyclopentane (58 g), sodium azide (29.9 g, 460 mmoles) and ammonium chloride (28.5 g, 531 mmoles) in DMF (500 mL) was stirred and heated at 130° C. for 90 minutes. The cooled mixture was poured into 0.5 M HCl (1 liter) and extracted with ether (2×500 mL). The combined ether extracts were washed with water (2×200 mL), brine (100 mL), and dried (MgSO4). Filtration and concentration provided a solid which was recrystallized from isopropylether-hexane (16.8 g). Melting point 92°-94° C.

reactant | 1,1-biscyanocyclopentane | 58 g | C(#N)C1(CCCC1)C#N | C7H8N2
reactant | sodium azide | 460 mmoles, 29.9 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 531 mmoles, 28.5 g | [Cl-].[NH4+]
reactant | HCl | 0.5 M, 1 liter | Cl | ClH
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 1-Cyano-1-(5-tetrazolyl)cyclopentane | C(#N)C1(CCCC1)C1=NN=NN1 | C7H9N5
